US06878700B1
(2-Bromophenyl)[2-trifluoromethyl-4-(E-((4-(tert-butoxycarbonyl)piperazin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 4-fluoro-3-trifluoromethylbenzaldehyde, and 6-amino-1-hexanol with t-butyl 1-piperazinecarboxylate, to give a white solid. 1H NMR (CDCl3, 300 MHz) d 1.48 (s, 9H), 3.49 (br s, 4H), 3.56-3.78 (m, 4H), 6.89 (d, J=15.6 Hz, 1H), 7.10 (d, J=8.4 Hz, 1H), 7.18-7.35 (m, 3H), 7.49 (d, J=8.4 Hz, 1H), 7.65 (d, J=15.6 Hz, 1H), 7.68 (dd, J=2.1, 8.4 Hz, 1H), 7.85 (br s, 1H). MS (APCI−) (M+Cl)− at m/z 605, 607, 609. Anal. Calcd for C25H26N2O3BrF3S. 0.03 H2O: C, 52.50; H, 4.59; N, 4.90. Found: C, 52.54; H, 4.71; N, 4.68.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-fluoro-3-trifluoromethylbenzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | t-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | H2O | O | H2O
product | (2-Bromophenyl)[2-trifluoromethyl-4-(E-((4-(tert-butoxycarbonyl)piperazin-1-yl)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C25H26BrF3N2O3S
